Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transfer for hemorrhage, cystotomy 
 
Major Surgical or Invasive Procedure:
s/p repeat C/S
s/p exlap, cystotomy repair
s/p massive transfusion - 8uRBC, 2uFFP, 1u platlets

 
History of Present Illness:
41 G5P5 ___ s/p rLTCS complicated by frank hematuria and
incisional bleeding requiring take back to OR with ex-lap and
repair of bladder injury who is transferred to ___ from
___ for evaluation and support of ongoing bleeding. 

The patient initially presented to ___ on ___ 
with
vaginal bleeding and abdominal mass and was found to be approx.
39 weeks pregnant on ultrasound. On ___ she then underwent
uncomplicated repeat LTCS, per the operative report with EBL 800
mL. From L+D documentation and verbal signout, she then was 
noted
to have bleeding from her incision as well as frank blood in her
foley catheter so she underwent ex-lap and repair of bladder
injury. Per verbal discussion, there was also noted to be lower
uterine segment atony for we she received one dose of methergine
and had her uterine arteries ligated, bilaterally.
Perioperatively she required a total of 4 units of packed red
blood cells, 2 units FFP and one dose of platelets. Given 
concern
for ongoing bleeding she was transferred to ___. 

 
Past Medical History:
POBH: G5P5, LTCS x5

PMH: 
- Bipolar d/o
- Depression and anxiety
- Chronic hypertension
- Hyperlipidemia
- ADHD

PSURGH: C-section x5, ex-lap as above, corneal transplant

 
Social History:
Followed by outside mental health provider for history of 
bipolar disorder. Denies T/E/D.  

 
Physical Exam:
On admission:
VS: T-97.6  HR-80s  BPs-130s/80s  RR-22  O2-100%
Gen: Intubated
Abd: soft, firm fundus 1 cm above the umbilicus, nondistended.
___ incision intact with staples but slowely oozing
throughout. 
Pelvic: Bimanual exam with minimal clot in the lower uterine
segment. Approx 50 mL of blood expressed from uterus. Lower
uterine segment firm. 
GU: Foley with bright red hematuria

On discharge:
Gen: No acute distress, well appearing
CV: regular rate and rhythm 
PULM: clear to auscultation bilaterally
ABD: soft, mildly distended, obese, appropriate tendernesss to 
palpation, incision clean/dry/intact, staples removed. 
EXT: Non tender/ 1+ lower extremity edema symmetric 

 
Pertinent Results:
___ 07:54AM BLOOD WBC-10.3 RBC-3.19*# Hgb-9.5*# Hct-29.0*# 
MCV-91 MCH-29.9 MCHC-32.9 RDW-15.5 Plt ___
___ 04:15PM BLOOD WBC-14.1* RBC-2.37* Hgb-7.2* Hct-20.7* 
MCV-88 MCH-30.4 MCHC-34.7 RDW-16.6* Plt ___
___ 10:45AM BLOOD WBC-12.9* RBC-2.32* Hgb-6.8* Hct-20.3* 
MCV-88 MCH-29.3 MCHC-33.5 RDW-16.3* Plt ___
___ 09:40PM BLOOD WBC-14.6* RBC-1.94* Hgb-5.9* Hct-17.7* 
MCV-91 MCH-30.6 MCHC-33.5 RDW-14.7 Plt ___
___ 06:24AM BLOOD WBC-19.0* RBC-2.94* Hgb-8.9* Hct-27.6* 
MCV-94 MCH-30.4 MCHC-32.3 RDW-13.9 Plt ___
___ 12:06AM BLOOD WBC-20.7* RBC-3.05* Hgb-9.2* Hct-28.3* 
MCV-93 MCH-30.1 MCHC-32.5 RDW-13.5 Plt ___
___ 07:54AM BLOOD Neuts-81.8* Lymphs-14.0* Monos-3.7 
Eos-0.3 Baso-0.1
___ 10:45AM BLOOD ___ PTT-25.9 ___
___ 12:06AM BLOOD ___ PTT-28.5 ___
___ 10:45AM BLOOD ___ 12:06AM BLOOD ___
___ 07:54AM BLOOD Glucose-93 UreaN-14 Creat-0.4 Na-139 
K-4.0 Cl-103 HCO3-26 AnGap-14
___ 04:35PM BLOOD Glucose-102* UreaN-9 Creat-0.4 Na-138 
K-4.1 Cl-106 HCO3-23 AnGap-13
___ 06:24AM BLOOD Glucose-83 UreaN-11 Creat-0.6 Na-138 
K-5.3* Cl-106 HCO3-25 AnGap-12
___ 07:54AM BLOOD ALT-13 AST-20 LD(LDH)-220 AlkPhos-111* 
Amylase-41 TotBili-0.5
___ 12:06AM BLOOD ALT-24 AST-22 LD(LDH)-327* AlkPhos-92 
TotBili-0.6
___ 12:53AM BLOOD Type-ART Temp-36.4 Rates-/16 Tidal V-450 
PEEP-5 FiO2-50 pO2-119* pCO2-40 pH-7.36 calTCO2-24 Base XS--2 
Intubat-INTUBATED Vent-CONTROLLED

IMAGING:
Abdominal Radiograph (___): Centrally dilated loops of bowel 
with air-fluid levels on the upright study.  
Findings could be consistent with partial bowel obstruction, 
although severe ileus possibly could have this same imaging 
appearance. Clinical correlation is recommended and followup 
imaging would be advised.  No free air. 
  
Cystogram (___): No evidence of bladder leak.

CT abd/pelvis (___): 1. No evidence of active arterial 
extravasation. Decreased size of hemoperitoneum and rectus 
sheath hematomas. 
2. Enlarged, immediate postpartum appearance of the uterus with 
decreased 
hemorrhagic contents in the vaginal and uterine cavities.  
Delayed contrast enhancement in left adnexal region is felt 
likely to correspond to serpiginous veins. 3. No evidence of 
extraluminal contrast around the bladder to suggest bladder 
leak. 4. Cholelithiasis. 

 
Brief Hospital Course:
Ms. ___ was initially transferred to the ___ Emergency Room 
with concern for hemorrhage and an intraoperative cystotomy 
noted at an outside hospital, where she had undergone a repeat C 
section followed by a repeat ex-lap for concern for bleeding 
(hypotension, frank blood in foley), with repair of a cystotomy. 

On arrival to ___, the patient was hemodynamically stable with 
no clinical evidence of ongoing intrabdominal bleeding. She was 
transferred to the Trauma ICU for close observation and given 
overall stability was transfered to the postpartum service on 
hospital day #2 for further management.

1) Post operative care: The patient initially received IV 
dilaudid and tylenol and was transitioned to a PO pain regimen 
when she was able to tolerate PO. 
In total (including at outside hospital), she received 8 units 
pRBC (4 of which given at ___ for a hematocrit that nadired at 
17), ___ FFP, and 1 unit of platelets. During her admission, when 
her hematocrit nadired at 17, she underwent a a CT 
abdomen/pelvis that was negative for ongoing bleeding. This 
nadir was thought to be a reflection of patient's prior EBL. On 
discharge, her hematocrit was stable at 29 with no clinical 
evidence of ongoing bleeding.  

2) Ileus: Ms. ___ developed nausea/vomiting during her post op 
course and had an abdominal radiograph that was concerning for 
an ileus. She was made NPO for 1 day, following which her nausea 
resolved and she had bowel function. She was slowly re-advanced 
without difficulty and tolerated a regular diet prior to 
discharge. 

3) Cystotomy: Urology was consulted who recommended a foley 
catheter for one week The patient initially underwent continuous 
bladder irrigation which was discontinued when her hematuria 
resolved. Her foley catheter was removed on POD#6, following 
which the patient passed a voiding trial (back fill 300cc, 
voided 300cc immediately). Prior to the voiding trial, she had a 
cystogram that was negative for a bladder leak. She was also 
treated for a UTI with keflex which was transitioned to 
augmentin for a total 7 day course (enterococcus).  

*) History of anxiety/depression: social work was consulted. 
Psychiatry was consulted given patient's significant history of 
mood disorder and multiple medications including lithium and 
effexor that were abruptly discontinued a few weeks prior to 
delivery. The patient declined psychiatry eval and did not want 
to resume any of her prior medications. She will follow up with 
her primary mental health provider as an outpatient.   

*) Chronic hypertension: Ms. ___ blood pressures were 
carefully monitored. She did not require antihypertensives at 
any point and there was no evidence of preeclampsia. 

Ms. ___ was discharged home on POD#6 in good condition. 
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 1 tablet(s) by mouth q4-6hrs Disp #*60 
Tablet Refills:*0
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth every 6 hours Disp #*30 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*3
3. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0
4. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every 12 hours Disp #*4 Tablet Refills:*0
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth every 4 hours Disp #*30 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p repeat C/S, exlap, cystotomy repair, anemia, bipolar 
depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nothing in the vagina for 6 weeks (No sex, douching, tampons)
No heavy lifting for 6 weeks
Do not drive while taking Percocet
Do not take more than 4000mg acetaminophen (APAP) in 24 hrs
Do not take more than 2400mg ibuprofen in 24 hrs
Please call the on-call doctor at ___ if you develop 
shortness of breath, dizziness, palpitations, fever of 101 or 
above, abdominal pain, increased redness or drainage from your 
incision, nausea/vomiting, heavy vaginal bleeding, or any other 
concerns.
 
Followup Instructions:
___